US07855194B2
Step 2: 4-(8-Amino-[1,3]dioxolo[4,5-g]quinazolin-6-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 6-chloro-[1,3]dioxolo[4,5-g]quinazolin-8-ylamine (0.9 g, 4.02 mmol equiv) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (1.61 g, 8.05 mmol, 2.0 equiv; commercially available) in anhydrous NMP (8 mL) and triethylamine (2 mL) was heated by microwave irradiation to 170° C. for 1 h. The organic phase was concentrated under reduced pressure and the residue extracted with dichloromethane (3×50 mL) from a sat. solution of sodium bicarbonate (100 mL). The combined organic phases were dried over MgSO4 and the product purified with column chromatography on silica eluting with a gradient of toluene/ethyl acetate (4:1→2:1) providing 0.6 g (39%) of the title compound. MS (ISP): 388.4 [M+H]+.

reactant | 6-chloro-[1,3]dioxolo[4,5-g]quinazolin-8-ylamine | 4.02 mmol, 0.9 g | ClC1=NC=2C=C3C(=CC2C(=N1)N)OCO3 | C9H6ClN3O2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
product | 4-(8-Amino-[1,3]dioxolo[4,5-g]quinazolin-6-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.6 g, 39% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=2C=C3C(=CC2C(=N1)N)OCO3 | C19H25N5O4
